US09303028B2
Step 6: 4-(3-(1-(7-chloroquinazolin-2-yl)azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide
4-(3-(Azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide tris(2,2,2-trifluoroacetate) (0.150 g, 0.239 mmol), 2,7-dichloroquinazoline (0.062 g, 0.310 mmol), and potassium carbonate (0.165 g, 1.19 mmol, Aldrich) were mixed in butan-1-ol (2 mL) in a sealed tube. The reaction mixture was stirred at 110° C. for 18 h. The reaction mixture was cooled to room temperature, diluted with water, and extracted with EtOAc. The organic layer was separated, washed with saturated sodium chloride, dried over magnesium sulfate, filtered, and concentrated in vacuo. The resulting crude mixture was purified via silica gel flash column chromatography eluting with 50% to 100% EtOAc in hexanes to yield give 99 mg (92%) of a light yellow solid. 1H NMR (400 MHz, chloroFORM-d) δ ppm 3.09 (d, J=4.50 Hz, 3 H) 4.29-4.38 (m, 1 H) 4.46-4.58 (m, 4 H) 6.75-6.85 (br. m., 1 H) 7.18 (dd, J=8.61, 1.56 Hz, 1 H) 7.36 (d, J=12.32 Hz, 1 H) 7.40 (dd, J=8.12, 1.27 Hz, 1 H) 7.60 (d, J=8.41 Hz, 1 H) 7.63 (br. s., 1 H) 8.27 (t, J=8.02 Hz, 1 H) 8.57 (d, J=2.15 Hz, 1 H) 8.65 (d, J=2.15 Hz, 1 H) 8.97 (s, 1 H). m/z=449 (M+1).

reactant | 4-(3-(Azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide tris(2,2,2-trifluoroacetate) | 0.239 mmol, 0.150 g | FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.FC(C(=O)O)(F)F.N1CC(C1)C=1C(=NC=CN1)C1=CC(=C(C(=O)NC)C=C1)F
reactant | 2,7-dichloroquinazoline | 0.310 mmol, 0.062 g | ClC1=NC2=CC(=CC=C2C=N1)Cl | C8H4Cl2N2
reactant | potassium carbonate | 1.19 mmol, 0.165 g | C([O-])([O-])=O.[K+].[K+]
solvent | butan-1-ol | 2 mL | C(CCC)O | C4H10O
solvent | water | O | H2O
product | 4-(3-(1-(7-chloroquinazolin-2-yl)azetidin-3-yl)pyrazin-2-yl)-2-fluoro-N-methylbenzamide | 99 mg, 92% | ClC1=CC=C2C=NC(=NC2=C1)N1CC(C1)C=1C(=NC=CN1)C1=CC(=C(C(=O)NC)C=C1)F | C23H18ClFN6O
